US04631194
Preparation of Methyl-3-(Propylthio)Butyrate
Into a 100 cc reaction flask equipped with stirrer, thermometer, reflux condenser and ultra-violet light source are placed 20 grams of methyl crotonate and 15.2 grams of n-propyl mercaptan (0.2 moles of methyl crotonate and 0.2 moles of n-propyl mercaptan). With stirring, the ultra-violet light is turned on and the reaction mass is maintained at a temperature of 30° C. The reaction mass is exposed with stirring to the ultra-violet light at 30° C. for a period of 4 hours. At the end of the 4 hour period, the reaction mass is transferred to a distillation flask and distilled on a micro Vigreux column yielding the following fractions:

reactant | methyl crotonate | 20 grams | C(\C=C\C)(=O)OC | C5H8O2
reactant | n-propyl mercaptan | 0.2 moles, 15.2 grams | C(CC)S | C3H8S
product | Methyl-3-(Propylthio)Butyrate | COC(CC(C)SCCC)=O | C8H16O2S
